US09302989B2
methyl 6-(isoindoline-2-carboxamido)pyridazine-3-carboxylate
To a solution of methyl 6-isocyanatopyridazine-3-carboxylate (5.26 g, 29.4 mmol) in THF (100 mL), a solution of isoindoline (5.24 g, 4.41 mmol) in THF (50 mL) was added at 0° C. The reaction mixture was stirred overnight at room temperature. The reaction mixture was filtered and the precipitate was washed with cold EtOAc and dried in high vacuum to give the title compound as a solid.

reactant | methyl 6-isocyanatopyridazine-3-carboxylate | 29.4 mmol, 5.26 g | N(=C=O)C1=CC=C(N=N1)C(=O)OC | C7H5N3O3
reactant | isoindoline | 4.41 mmol, 5.24 g | C1NCC2=CC=CC=C12 | C8H9N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | methyl 6-(isoindoline-2-carboxamido)pyridazine-3-carboxylate | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(N=N1)C(=O)OC | C15H14N4O3
